US04743685
(A) 4,5-Bis(phenylmethoxy)-2-pyridinecarboxylic acid
To a solution of 11.8 g (28 mmol) of 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester in 115 ml of tetrahydrofuran was added 16 ml of water and 35 ml of 1N potassium hydroxide. After stirring overnight at room temperature, 115 ml of water was added and the pH was adjusted to 2.5 with 1N hydrochloric acid. The acid was filtered off, washed with water and dried in vacuo, yielding 8.6 g of the title compound, melting point 203.6° C.

reactant | 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester | 28 mmol, 11.8 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H23NO4
reactant | water | 16 ml | O | H2O
reactant | potassium hydroxide | 1N, 35 ml | [OH-].[K+]
reactant | water | 115 ml | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 115 ml | O1CCCC1 | C4H8O
product | 4,5-Bis(phenylmethoxy)-2-pyridinecarboxylic acid | 8.6 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)O | C20H17NO4
